US05190971
2-Hydroxymethyl-4-methylaniline
1.3 l of a 1.3 molar lithium aluminium hydride solution in THF are added dropwise under reflux to a solution of 100 g (0.66 mol) of 2-amino-5-methylbenzoic acid in 400 ml of anhydrous tetrahydrofuran. After addition is complete, the mixture is additionally heated under reflux for 1.5 h and hydrolysed at this temperature using a solution of 36 g of potassium hydroxide in 145 ml of water. After boiling under reflux for a further 15 min, the hydroxide precipitate is filtered off while hot, the precipitate is washed with ethyl acetate, the organic solution is concentrated in vacuo, the residue is dissolved in ethyl acetate and the solution is washed with dilute sodium hydroxide solution and water. After drying with sodium sulphate and concentrating the solution, the residue is recrystallised from ethyl acetate.

reactant | lithium aluminium hydride | 1.3 molar | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-amino-5-methylbenzoic acid | 0.66 mol, 100 g | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | potassium hydroxide | 36 g | [OH-].[K+]
solvent | THF | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | water | 145 ml | O | H2O
product | 2-Hydroxymethyl-4-methylaniline | OCC1=C(N)C=CC(=C1)C | C8H11NO
